US09428502B2
Compound 258.1. Ethyl 5-iodo-4-methyl-1H-pyrazole-3-carboxylate
Into a 250-mL round-bottom flask, was placed a solution of ethyl 4-methyl-1H-pyrazole-3-carboxylate (600 mg, 3.89 mmol) in N,N-dimethylformamide (20 mL). NIS (2.2 g, 9.78 mmol) was added and the resulting mixture was stirred for 6 h at 50° C., then quenched with water (10 mL). The mixture was extracted with ethyl acetate (3×40 mL) and the combined organic extracts were washed with aqueous Na2S2O3 (sat., 2×30 mL) and brine (2×20 mL), dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by a silica gel chromatography with ethyl acetate/petroleum ether (1:10) as eluent to obtain the title compound as a white solid (800 mg, 73%).

reactant | ethyl 4-methyl-1H-pyrazole-3-carboxylate | 3.89 mmol, 600 mg | CC=1C(=NNC1)C(=O)OCC | C7H10N2O2
reactant | NIS | 9.78 mmol, 2.2 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Ethyl 5-iodo-4-methyl-1H-pyrazole-3-carboxylate | 800 mg, 73% | IC1=C(C(=NN1)C(=O)OCC)C | C7H9IN2O2
